************************************************************************
* auCdl Netlist:
* 
* Library Name:  EECS391
* Top Cell Name: NOR2
* View Name:     schematic
* Netlisted on:  Feb  6 16:48:30 2026
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: EECS391
* Cell Name:    NOR2
* View Name:    schematic
************************************************************************

.SUBCKT NOR2 A B gnd out vdd
*.PININFO A:I B:I out:O gnd:B vdd:B
MM1 out B net16 vdd PMOS_VTG W=1.2u L=50n m=1
MM0 net16 A vdd vdd PMOS_VTG W=1.2u L=50n m=1
MM3 out A gnd gnd NMOS_VTG W=400n L=50n m=1
MM2 out B gnd gnd NMOS_VTG W=400n L=50n m=1
.ENDS

